US04042621
By essentially the procedure of Example 1, a tube was charged with 20 g of N,N,N',N'-tetramethylethylenediamine, 20 g of dimethylformamide, and 1.0 g of cupric chloride dihydrate. The reaction was run at 105°-123° C. for five hours while oxygen (0.4 mole) was injected incrementally. Analysis of GC/MS showed a 29.4% conversion of the starting diamine, a 2.4% yield of N,N'-ethylenebis(N-methylformamide), and a 6% yield of N-(2-dimethylaminoethyl)-N-methylformamide.

reactant | N,N,N',N'-tetramethylethylenediamine | 20 g | CN(CCN(C)C)C | C6H16N2
reactant | oxygen | 0.4 mole | O=O | O2
reactant | dimethylformamide | 20 g | CN(C=O)C | C3H7NO
product | N,N'-ethylenebis(N-methylformamide) | 2.4% yield | C(CN(C=O)C)N(C=O)C | C6H12N2O2
